### PR TITLE
feat: the ring of integers of a `ℤₘ₀`-valued field is compact whenever it is a DVR and the residue field is finite

### PR DESCRIPTION
**Pull request by smmercuri**
This PR continues the work from #21844.

Original PR: https://github.com/leanprover-community/mathlib4/pull/21844

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean [hunk 1]
```diff
@@ -45,4 +44,54 @@ lemma exists_pow_lt_of_le_exp_neg_one [Valued R ℤᵐ⁰] {x : R} (hx : v x ≤
...
+  linarith
+
+theorem mem_maximalIdeal_pow_valuation [IsDiscreteValuationRing 𝒪[K]]
+    {x : 𝒪[K]} {n : ℕ} (hx : x ∈ 𝓂[K] ^ n) {ϖ : 𝒪[K]} (h : Irreducible ϖ) :
+    v x.val ≤ v ϖ.1 ^ n := by
+  rcases eq_or_ne x 0 with (rfl | hx₀) <;> try simp
+  simp_rw [h.maximalIdeal_eq, Ideal.span_singleton_pow, Ideal.mem_span_singleton] at hx
+  obtain ⟨y, rfl⟩ := hx
+  simpa using le_trans (mul_le_of_le_one_right' <| (Valuation.mem_integer_iff _ _).1 y.2) le_rfl
+
```
Comment (pechersky) [inline Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:67]: Ideally, armed with these lemmas, you could prove that `ValuativeRel.IsDiscrete` iff `IsDiscreteValuationRing` of the valuation ring. Which would hold for Zm0 and any isomorphic type. This way the statements here would be more general and yet still hold from Zm0 out of the box.

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean [hunk 2]
```diff
@@ -45,4 +44,54 @@ lemma exists_pow_lt_of_le_exp_neg_one [Valued R ℤᵐ⁰] {x : R} (hx : v x ≤
...
+variable (K)
+
+/-- The ring of integers `𝒪[K]` of a complete `ℤₘ₀`-valued field `K` with finite residue
+field is compact, whenever `𝒪[K]` is a discrete valuation ring. -/
+theorem integer_compactSpace [CompleteSpace K] [IsDiscreteValuationRing 𝒪[K]] (h : Finite 𝓀[K]) :
+    CompactSpace 𝒪[K] where
+   isCompact_univ := isCompact_iff_isCompact_univ.1 <| isCompact_iff_totallyBounded_isComplete.2
+      ⟨(hasBasis_uniformity _ _).totallyBounded_iff.2 fun _ _ ↦ finite_cover_of_uniformity_basis h,
+        (isClosed_integer K).isComplete⟩
```
Comment (pechersky) [inline Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:95]: Why can't you use `Valued.integer.properSpace_iff_completeSpace_and_isDiscreteValuationRing_integer_and_finite_residueField` directly? Instead of having to re-prove the cover argument, which is already inside `Valued.integer.totallyBounded_iff_finite_residueField`?

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean [hunk 3]
```diff
@@ -45,4 +44,54 @@ lemma exists_pow_lt_of_le_exp_neg_one [Valued R ℤᵐ⁰] {x : R} (hx : v x ≤
...
+  obtain ⟨y, rfl⟩ := hx
+  simpa using le_trans (mul_le_of_le_one_right' <| (Valuation.mem_integer_iff _ _).1 y.2) le_rfl
+
+/-- The ring of integers `𝒪[K]` of a `ℤₘ₀`-valued field `K` with finite residue
+field has a finite covering by elements of the basis of uniformity of `K`, whenever
+`𝒪[K]` is a discrete valuation ring. -/
+theorem finite_cover_of_uniformity_basis [IsDiscreteValuationRing 𝒪[K]] {γ : ℤᵐ⁰ˣ}
+    (h : Finite 𝓀[K]) :
+    ∃ t : Set K, Set.Finite t ∧
+      (𝒪[K]).carrier ⊆ ⋃ y ∈ t, { x | (x, y) ∈ { p | v (p.2 - p.1) < γ.val } } := by
```
Comment (pechersky) [inline Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:74]: I'm not a big fan of the `carrier` here, and I think this lemma is unnecessary, see comment below.

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 4]
```diff
@@ -79,6 +79,9 @@ lemma mk_singleton_self (x : R) [(Ideal.span {x}).IsTwoSided] : mk (Ideal.span {
 
 variable (I)
 
+theorem out_sub (x : R) : (Ideal.Quotient.mk I x).out - x ∈ I := by
+  rw [← Ideal.Quotient.eq, Ideal.Quotient.mk_out]
```
Comment (pechersky) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean:83]: if you add these, I would ask that you add them also for `(Add)Subgroups`

File: Mathlib/RingTheory/Ideal/Quotient/Basic.lean [hunk 5]
```diff
@@ -79,6 +79,9 @@ lemma mk_singleton_self (x : R) [(Ideal.span {x}).IsTwoSided] : mk (Ideal.span {
 
 variable (I)
 
+theorem out_sub (x : R) : (Ideal.Quotient.mk I x).out - x ∈ I := by
```
Comment (pechersky) [inline Mathlib/RingTheory/Ideal/Quotient/Basic.lean:82]: `out_sub_mem` likely

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean [hunk 6]
```diff
@@ -45,4 +44,54 @@ lemma exists_pow_lt_of_le_exp_neg_one [Valued R ℤᵐ⁰] {x : R} (hx : v x ≤
...
+    v ϖ.1 ≤ exp (-1 : ℤ) := by
+  have hϖ : v ϖ.1 ≠ 0 := by simp [h.ne_zero]
+  have := log_one (M := ℤ) ▸  (log_lt_log hϖ one_ne_zero).2 (irreducible_valuation_lt_one h)
+  rw [← log_le_iff_le_exp hϖ]
+  linarith
+
+theorem mem_maximalIdeal_pow_valuation [IsDiscreteValuationRing 𝒪[K]]
+    {x : 𝒪[K]} {n : ℕ} (hx : x ∈ 𝓂[K] ^ n) {ϖ : 𝒪[K]} (h : Irreducible ϖ) :
+    v x.val ≤ v ϖ.1 ^ n := by
+  rcases eq_or_ne x 0 with (rfl | hx₀) <;> try simp
```
Comment (pechersky) [inline Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:63]: sneaky nonterminal simp here?

**Review by pechersky — CHANGES_REQUESTED** [review]

File: Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean (hunk 2 above)
Comment (smmercuri) [reply Mathlib/Topology/Algebra/Valued/WithZeroMulInt.lean:95]: The answer is that this PR is pretty old at this point and very out of date. I did not use that result because it required `v.RankOne`, but now that's easy to prove with your other result, `Valuation.nonempty_rankOne_iff_mulArchimedean`. So I think this whole PR is now obsolete! I'll probably close this shortly
